US07018988B2
(2S,4EZ)-N-{(2RS)-3-[4-(acetylamino)phenoxy]-2-hydroxypropyl}-4-(methoxyimino)-1-[4-(4-pyridinyl)benzoyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 4-(4-pyridinyl)benzoic acid, and N-(4-{[(2RS)-3-amino-2-hydroxypropyl]oxy}phenyl) acetamide, the title compound was obtained in 62% purity by HPLC. MS(ESI+): m/z=546.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 4-(4-pyridinyl)benzoic acid | N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | N-(4-{[(2RS)-3-amino-2-hydroxypropyl]oxy}phenyl) acetamide | NCC(COC1=CC=C(C=C1)NC(C)=O)O | C11H16N2O3
product | (2S,4EZ)-N-{(2RS)-3-[4-(acetylamino)phenoxy]-2-hydroxypropyl}-4-(methoxyimino)-1-[4-(4-pyridinyl)benzoyl]-2-pyrrolidinecarboxamide | C(C)(=O)NC1=CC=C(OCC(CNC(=O)[C@H]2N(CC(C2)=NOC)C(C2=CC=C(C=C2)C2=CC=NC=C2)=O)O)C=C1 | C29H31N5O6
